US07528160B2
(6-Benzyloxy-1H-indol-3-yl)-oxo-acetic acid methyl ester
To a solution of 6-benzoxyindole (1.05 g, 4.7 mmol) in ether (8 mL) is added oxalyl chloride (0.45 mL) at 0˜5° C., stirred for 2 hrs. The reaction mixture is cooled to −78° C., sodium methoxide (25% w/w in methanol, 2.4 mL) is added, warmed up to room temperature, quenched by water. Solid product is collected by filtration, washed by water and dried under vacuum.

reactant | 6-benzoxyindole | 4.7 mmol, 1.05 g | C(C1=CC=CC=C1)OC1=CC=C2C=CNC2=C1 | C15H13NO
reactant | oxalyl chloride | 0.45 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium methoxide | 2.4 mL | C[O-].[Na+]
solvent | ether | 8 mL | CCOCC | C4H10O
product | (6-Benzyloxy-1H-indol-3-yl)-oxo-acetic acid methyl ester | COC(C(=O)C1=CNC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C18H15NO4
